US07989461B2
3-Acetamido-4-methylbenzoic acid (205 g, 1061 mmol) was added portionwise over 45 min to stirred fuming nitric acid (1 L) at −5° C., maintaining a reaction temperature below 0° C. The mixture was stirred for an additional 1 h and then crushed ice (2.5 kg) was added. The mixture was stirred for a further 30 min. The precipite that formed was filtered off and thoroughly washed with water. The resulting cake was air dried and suspended in 1 L of acetic acid at 65° C. The suspension was stirred for 1 hour, allowed to cool down to RT and then filtered. The filtrate was washed with acetic acid and ether to give 3-acetamido-4-methyl-2-nitrobenzoic acid (160 g, 63%) as a white solid. MS (M+H)+ 239.

reactant | 3-Acetamido-4-methylbenzoic acid | 1061 mmol, 205 g | C(C)(=O)NC=1C=C(C(=O)O)C=CC1C | C10H11NO3
reactant | nitric acid | 1 L | [N+](=O)(O)[O-] | HNO3
product | 3-acetamido-4-methyl-2-nitrobenzoic acid | 160 g, 63% | C(C)(=O)NC=1C(=C(C(=O)O)C=CC1C)[N+](=O)[O-] | C10H10N2O5
